US07589116B2
Step 1: Ethyl 3-(3-bromophenyl)-3-oxopropanoate
To a suspension of sodium hydride (0.361 g, 9 mmol) in DMF (9.4 mL) was added 3-bromoacetophenone (0.99 mL, 9.53 mmol) at 0° C. and stirred at room temperature for 35 minutes. The reaction mixture was then cooled to 0° C. and diethyloxalate (1.32 mL, 9.7 mmol) was added followed by stirring at room temperature for 16 hours. The reaction was then poured into ice-water and acidified with 1N HCl. The solid precipitate formed was filtered, washed with cold water and dried under vacuum to give the titled product (2.1 g, 93%) as a yellow solid.

reactant | sodium hydride | 9 mmol, 0.361 g | [H-].[Na+]
reactant | 3-bromoacetophenone | 9.53 mmol, 0.99 mL | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | diethyloxalate | 9.7 mmol, 1.32 mL | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 9.4 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(3-bromophenyl)-3-oxopropanoate | 2.1 g, 93% | BrC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11BrO3
